US07064102B2
K2CO3 (6.2 g, 45 mmol) and 1-(3,3-dimethylcyclohexyl)-1-methylethyl chloroacetate (2,5 g, 10 mmol) are added successively to a solution of propionic acid (1.8 g, 30 mmol) in acetone (20 ml). After the suspension has been heated under reflux for 36 hours, it is allowed to cool and ether (80 ml) and 10% K2CO3 solution (50 ml) are added. After phase separation has taken place, the aqueous phase is freed from residual acetone and the aqueous phase is also extracted twice with 50 ml diethyl ether. The combined organic phases are also washed once with water and once with saturated NaCl solution, then dried, filtered off and freed from solvent in a rotary evaporator. After purification by flash chromatography (cyclohexane/EtOAc=10:1, Rf=0.23) and subsequent bulb tube distillation, (BTD: 215° C., 0.9 mbar) 2.1 g (78%) 2-[1-(3,3-dimethylcyclohexyl)-1-methylethoxy]-2-oxoethyl propionate is obtained as a colorless liquid.

reactant | K2CO3 | 45 mmol, 6.2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-(3,3-dimethylcyclohexyl)-1-methylethyl chloroacetate | 10 mmol, 2,5 g | ClCC(=O)OC(C)(C)C1CC(CCC1)(C)C | C13H23ClO2
reactant | propionic acid | 30 mmol, 1.8 g | C(CC)(=O)O | C3H6O2
reactant | ether | 80 ml | CCOCC | C4H10O
reactant | K2CO3 | 50 ml | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 2-[1-(3,3-dimethylcyclohexyl)-1-methylethoxy]-2-oxoethyl propionate | 2.1 g, 78% | C(CC)(=O)OCC(=O)OC(C)(C)C1CC(CCC1)(C)C | C16H28O4
